Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with ESRD on HD secondary to PKD, HTN, and chronic 
osteomyelitis, with multiple recent admissions for fevers 
following HD, presenting with fever to 101 following HD 
yesterday.  Patient was last admitted with fever on ___ 
with 1 blood culture positive for e.coli.  He hsa a tunneled HD 
catheter which was changed ___ during another episode of 
e.coli bacteremia.  Patient was most recently treated with 7 
days bactrim, but in the past has been treated with vanc/zosyn 
and ceftazadime. E.coli in past has been resistant to 
ampicillin, cefazolin, ciprofloxacin, and levofloxacin.  
.
Patient reports that other than transient fever following HD, he 
has been feeling well.  He denies cough, runny nose or shortness 
of breath.  He denies diarrhea.  He does not make urine.  He 
denies worsening low back pain at the site of his chronic 
osteomyelitis.
 
Past Medical History:
ESRD on HD MWF through right Port-A-Cath, on dialysis since 
___, PD ___ complicated by recurrent peritonitis, failed 
LUE AV fistula ___ 
Polycystic kidney disease s/p right nephrectomy ___ 
Hypertension ___ years 
Hepatitis C dx ___ s/p failed interferon treatment ___ 

L5-S1 discitis, osteomyelitis, epidural abscess ___ 
enterococcus bacteremia, treated with 10 days of 
ampicillin/gentamycin 
Endocarditis (___) 
Hyperparathyroidism, s/p subtotal parathyroidectomy ___, 
revision ___ s/p thyroid lobectomy 
Gout (questionable diagnosis but on treatment) 
Carotid stenosis 
Restless leg syndrome 
Depression 
Chronic pain syndrome 

 
Social History:
___
Family History:
Mother - diagnosed with DM in her ___
Father - died of drugs and alcohol and pancreatic cancer at ___
3 of 4 or ___ healthy brother
2 children (estranged) - ___nd health ___ yo
 
Physical Exam:
Admission Physical Exam:
T 99.0 BP 163/94 HR 76 R 18 O2Sat 100%
Gen- middle aged man in NAD
HEENT- NCAT, PERRL, EOMI, MMM, oropharynx clear
Neck- No JVD
CV- RRR, normal S1/S2, grade II/VI holosystolic murmur heard 
throughotu precordium without radiation to axilla or carotids.  
No carotid bruit.
Pulm- CTA bilaterally w/o wheezes, ronchi, rales.  Tunneled 
catheter line c/d/i, no erythema, tenderness or warmth at site
Abd- Soft, NTND +BS. No HSM appreciated.  Midline scars from 
previous PD.
GU- no foley
Ext- Right arm with old AV fistula scars, no bruits. No ___ 
edema. 2+ ___ pulses
Neuro- A+O x3, normal speech, strength ___ b/l

Discharge Physical Exam:
Afebrile T98.1 BP 136/84 (129-158/78-84) P 58 R 18 98% RA
HD line in place, tunneled under skin into right subclavian 
artery.  Clean, dry, intact, nontender without erythema or 
exudate.
CV- unchanged
Pulm- unchanged
Exam otherwise stable.
 
Pertinent Results:
WBC 2.8 Hgb 10.2 Hct 30.4 Plts 121
Na 140 K 4.8 Cl 101 CO2 28 BUN 28 Cr 9.8
Ca ___ Mag 2.3 Phos 4.2
Lactate 1.3
ESR 30  CRP 14.9

Blood culture (___) x 2- no growth
Blood culture (___) x 3- no growth
Blood culture (___) x 2- no growth
Blood culture (___) x 2- no growth
CATHETER TIP-IV      TUNNELED HD CATH HIP. 
                            **FINAL REPORT ___
   WOUND CULTURE (Final ___: 
      DUE TO MIXED BACTERIAL TYPES ( >= 3 COLONY TYPES) NO 
FURTHER WORKUP
      WILL BE PERFORMED. 
      ___ ___ (___) REQUESTED SPECIATION OF THE MIXED 
BACTERIAL
      TYPES ___. 
      VIRIDANS STREPTOCOCCI.    10 COLONIES. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    1 COLONY. 
      GAMMA(I.E. NON-HEMOLYTIC) STREPTOCOCCUS.    1 COLONY. 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    3 COLONIES. 

CXR- Lungs are clear. 8-mm rim-calcified left base nodule is 
again 
demonstrated. Right-sided dialysis catheter is noted terminating 
in the 
proximal right atrium, as before. Right upper quadrant clips and 

calcifications corresponding to left renal cysts are again 
demonstrated.  
Cardiac size is top normal with normal cardiac silhouette. 
Slight rightward tracheal deviation is from left thyroid or 
parathyroid enlargment.  

CT Abd w/contrast (___)- 1. No evidence of intra-abdominal 
abscess. 
2. Innumerable cysts with calcifications in the left kidney 
consistent with polycystic kidney disease (status post right 
nephrectomy). The larger cysts demonstrate internal soft tissue 
density, ? hemorrhagic cysts vs. enhancing soft tissue elements 
within these cysts given lack of non-contrast examination for 
comparison. Recommend comparison with previous examinations if 
available. If not available, a followup scan should be performed 
with and without contrast. 
3. Significantly distended stomach without obvious structural 
abnormality.  Correlate for gastroparesis. 
4. Appearance of L5/S1 may be due to erosions from renal 
osteodystrophy or 
Chronic discitis/osteomyelitis at L5-S1. 

Ultrasound of prostate (___)- The prostate measures 4.1 x 
3.3 x 3.4 cm and is normal in appearance. Both seminal vesicles 
are normal as well. The estimated prostatic volume is 24 cc and 
the predicted PSA based on volume is 2.8. 
  IMPRESSION: Prostatic volume of 23.5 with a predicted PSA of 
2.8. No abscess is noted. 

WBC Tagged Scan/ Bone scan (___)- negative
 
Brief Hospital Course:
___ M with ESRD on HD, HTN, chronic osteomyelitis and multiple 
admissions for fevers presenting with fever following HD.

# Fevers - Patient has had multiple admissions for transient 
fevers, often following HD, with blood cultures occasionally 
positive for E.coli.  Fevers only began once tunnel catheter was 
placed, after AVF clotted.  ESR and CRP are at patient's 
baseline so unlikely acute on chronic osteomyelitis.  In 
addition, patient had no worsening of his low back pain.  
Radiography showed stable process as well. CXR showed no acute 
cardiopulmonary process.  Patient given vancomycin/cefepime x1 
in ER.  Overnight on HD1/2 patient spiked fevers to 103.2 and on 
HD2, tunneled catheter line was pulled and patient was started 
on vancomycin and ceftazadime with dialysis. Patient was given a 
line holiday for 2 days prior to replacement of line.  Line tip 
culture grew strep viridans, coag negative staph, non hemolytic 
strep and corynebacterium consistent with skin or oral flora. 
Blood cultures were negative to date on the day of discharge.  
Patient was afebrile following removal of HD line and did not 
have further fevers.  He completed a 7 day course of vancomycin 
and cefepime following the discontinuation of the HD line.  
Other potential sources of occult infection were investigation 
with a CT abdomen, prostate ultrasound, WBC tagged scan and bone 
scan.  All of these studies were negative for infection.  

# ESRD on HD - Patient gets dialysis ___. 
He was continued on his home sevelamer, doxercalciferol and 
nephrocaps while inpatient. He was dialyzed on ___ 
prior to removal of original tunneled HD line, and spiked a 
fever to 105.  The line was removed following dialysis and 
patient had a "line holiday" until ___ when a 
new tunneled cath was placed without issue.  Patient was 
dialyzed on ___ and ___ as scheduled following 
replacement of catheter.  He had no fevers during or following 
dialysis.  Patient has follow-up scheduled with surgical team 
regarding AV fistula v graft.

# Leukopenia/Thrombocytopenia - Has had WBC as low as 2.8 back 
in ___, this appears to be the first time platelets have 
dipped so low. Patient recently on bactrim which ended 1.5 weeks 
ago, and working diagnosis was residual thrombocytopenia due 
this antibiotic.  In addition, with history of HepC, may be due 
to decreased liver function.  Platelets initially trended down, 
but were increasing above admission levels at the time of 
discharge.

# Chronic pain - Has chronic joint pains which have been 
associated with gout in the past. Also with history of chronic 
osteomyelitis as above.  Pain was at baseline and well 
controlled on home regimen of amitriptyline, MS contin 30mg BID, 
ropinirole.  
  
# Hypertension: Patient was intiially continued on lisinopril 
and metoprolol at home doses.  On HD 4, blood pressures were 
elevated, likely in the setting of volume overload due to 
dietary indiscretions and no HD over the weekend.  Patient was 
given hydralazine 25mg q6h, and following dialysis with removal 
of 4.5L, pressures remained elevated.  Lisinopril was increased 
to 40mg daily as well and patient was discharged on hydralazine 
and new dose of lisinopril.   Consider titrating off of 
hydralazine as full effect of lisinopril is seen.
  
# Hepatitis C: Chronic hep C with prior interferon treatment 
dc'ed for GI bleed and ineffectiveness. He is not currently 
being treated.  
  
# Anemia: On prior admission Hct ranged from ___ throughout 
admission, baseline appears to be around 28, secondary to 
chronic renal disease and possibly iron deficiency.  Hematocrit 
remained at baseline throughout admission.

# Transitional issues:
- Please titrate down and discontinue entirely if blood 
pressures well controlled on increased dose of lisinopril.
- 8-mm rim calcified nodular opacity within the left lung base 
noted on CXR, patient will need a non-emergent CT scan to better 
evaluate  
- Patient will have follow-up with surgical team regarding AV 
fistula/graft.  This should be done as soon as possible to avoid 
further tunneled line infections.  
 
Medications on Admission:
1. amitriptyline 25 mg Tablet Sig: One (1) Tablet PO BID (2  
times a day).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
 
times a day).  
3. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
 
4. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet  
Extended Release PO Q12H (every 12 hours).  
5. ropinirole 1 mg Tablet Sig: 2.5 Tablets PO QPM (once a day  
(in the evening)).  
6. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO  
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
7. metoprolol tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID  
(2 times a day).  
8. allopurinol ___ mg Tablet Sig: One (1) Tablet PO QMWF (): MWF 
 
after dialysis.  
9. doxercalciferol 2.5 mcg Capsule Sig: Two (2) Capsule PO QMWF. 
 
 
10. diphenhydramine HCl 50 mg Tablet Sig: One (1) Tablet PO  
every six (6) hours as needed for allergy symptoms.  
11. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8  

hours) as needed for pain: please take after meals.  
13. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
 
PO DAILY (Daily).  
Disp:*30 Cap(s)* Refills:*2* 
 
Discharge Medications:
1. amitriptyline 25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO Q12H (every 12 hours).  
4. ropinirole 1 mg Tablet Sig: 2.5 Tablets PO QPM (once a day 
(in the evening)).  
5. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO 
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
6. metoprolol tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
7. allopurinol ___ mg Tablet Sig: One (1) Tablet PO MWF 
(___).  
8. doxercalciferol 2.5 mcg Capsule Sig: One (1) Capsule PO 
3X/WEEK (___).  
9. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
10. hydralazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours).  
11. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Fever, hemodialysis line infection

Secondary Diagnosis:
1. End stage renal disease
2. Polycystic kidney disease
3. Hypertension
4. Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your recent 
admission to ___.

You were admitted because of a high fever following 
hemodialysis.  You have had frequent fevers following dialysis 
in the past due to bacteria in your blood.  Blood tests were 
drawn and you were monitored in the hospital for 24 hours.  You 
did not spike any more fevers, and your blood cultures remained 
negative.  The catheter tip grew some bacteria, and so you were 
continued on antibiotics.  In addition, you had an abdominal CAT 
scan to ensure there was no infection in your abdomen.  This 
exam was negative.

Your tunneled catheter line was replaced after a "line holiday" 
for two days.

Medication changes:
- INCREASE lisinopril to 40mg daily
- START hydralazine 25mg four times day, this should be tapered 
down and discontinued as your blood pressure responds to the 
increased dose of lisinopril
 
Followup Instructions:
___